US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 2-thienylcarbonyl chloride, there is obtained ethyl N-(2-thienylcarbonyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a solid, mass spectrum m/e:M+ 376 (10), 347 (13), 194 (100), 111 (48); starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 1-naphthoyl chloride, there is obtained ethyl N-(1-naphthylcarbonyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a foam, mass spectrum m/e: M+ 420 (8), 391 (6), 194 (100), 155 (32), 27 (28);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 1-naphthoyl chloride | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | ethyl N-(1-naphthylcarbonyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1(=CC=CC2=CC=CC=C12)C(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C28H24N2O2
